US05900327
Synthesis of 9-(2-ethylhexyl)-9-(3,6,9-trioxadecyl)-fluorene:
7.69 g of butyllithium dissolved in 48 ml of hexane was slowly added during 5 minutes into 20.0 g of fluorene dissolved in 150 ml of anhydrous tetrahydrofuran at -50° C. under nitrogen protection. The mixture was stirred at -30 to 15° C. for 1 hour before it was cooled again to -40 to -50° C. Then, 23.17 g of 2-ethylhexyl bromide was added in 5 minutes. The mixture was subsequently stirred for 2 hours while the temperature was gradually increased to 22° C. The main product in the solution was 9-(2-ethylhexyl)-fluorene as detected by GC-MS. This solution was then cooled to -50° C., and 7.7 g of butyllithium dissolved in 48 ml of hexane was slowly added in 5 minutes under nitrogen protection. The mixture was stirred at -30~15° C. for 1 hour before it was cooled again to -40 to -50° C. Then, 23.75 g of 1-(2-chloroethoxy)-2-(2-methoxyethoxy)-ethane was added in 5 minutes. The mixture was subsequently stirred for 15 hours at 22° C., dispersed in water, and extracted with ether. The etheral solution was washed with water and brine, dried with magnesium sulfate, and evaporated. The residue was distilled to collect 45.5 g (89%) of colorless liquid at 190° C./0.12 mm Hg. MS (m/z): 424 (M+), 277, 205, 191, 178, 165, 133, 103, 59.

reactant | butyllithium | 7.69 g | C(CCC)[Li]
reactant | fluorene | 20.0 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | 2-ethylhexyl bromide | 23.17 g | C(C)C(CBr)CCCC | C8H17Br
reactant | 9-(2-ethylhexyl)-fluorene | C(C)C(CC1C2=CC=CC=C2C=2C=CC=CC12)CCCC | C21H26
reactant | butyllithium | 7.7 g | C(CCC)[Li]
reactant | 1-(2-chloroethoxy)-2-(2-methoxyethoxy)-ethane | 23.75 g | ClCCOCCOCCOC | C7H15ClO3
solvent | hexane | 48 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | hexane | 48 ml | CCCCCC | C6H14
solvent | water | O | H2O
product | 9-(2-ethylhexyl)-9-(3,6,9-trioxadecyl)-fluorene | C(C)C(CC1(C2=CC=CC=C2C=2C=CC=CC12)CCOCCOCCOC)CCCC | C28H40O3
